Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/P suicide attempt
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
In brief, this is a ___ year old man with a history of depression 
and no PMH sent on ___ by ___ psychiatrist for SI and 
disclosing suicide attempts from the past ___ weeks. He states 
he visited with his psychiatrist at ___ today,
discussed his struggle with depression, his suicide attempts 
over the past ___ weeks, and was put on ___, arrived by 
ambulance.
.
Over the past 2 weeks he had been feeling more depressed and 
with worsening SI, he believes related to running out of 
Wellbutrin for ___ days and from being on academic probation 
(poor grades last semester, states the toughest classes were
general and organic chemistry, very stressed out about the 
future, has goals of one day work in IT). He has decreased 
interests, amotivation, decreased sleep, regular eating, regular 
energy, decreased concentration, worsening hopeless and 
increased feelings of guilt.  
.
He reports three suicide attempts from last ___ weeks(states 
last week to Dr. ___ starting 2 weeks ago with this 
examiner). About 2 weeks ago, states he tried to hang self with 
rope on a door for 30 seconds, realized wasn't being effective 
and stopped. He states ___ days later he overdosed on
0.75 L of 80 proof scotch and unknown amount of codeine. ___ 
days later states he took a month's supply of prozac and 
wellbutrin with about 1 L of 80 proof vodka (vomited 
intermittently 48 hrs afterwards, did not bring self to hospital
at the time and then felt fine). He states these were impulsive 
acts but with the intent to die each time, states he does not 
want to currently harm himself on unit at this time. He states 
the first time he had suicide attempt was in ___ grade (which he 
considers elementary school), states first attempt was trying to 
hang self in similar way to previous recent attempt.    
.
Regarding anxiety symptoms which have been worse over the past 
few weeks, states he is worried about many things, feeling quite 
tense and restless recently, with frequent ruminating thoughts.  
 
.
The patient denies AVH, denies paranoia and denies HI. Patient 
denies symptoms of mania such as elevated mood, decreased need 
for sleep, racing thoughts, increased talkativeness, increased 
risky and goal-directed behaviors. He denies nightmares, 
flashbacks, or avoiding stressful past events.  
 
Past Medical History:
Past psychiatric history: 
Diagnoses: Depression
Hospitalizations: Denies
Current treaters and treatment: ___ psychiatrist
Medication and ECT trials: just Prozac and Wellbutrin
Self-injury: Hx of multiple suicide attempts since elementary
school, most recent last week were OD on codeine, OD on
SSRI/wellbutrin,and attempted hanging
Harm to others: denies

PMH: none significant
 
Social History:
___
Family History:
Mother: ___, alcohol abuse
Father: ___, cocaine abuse
Grandparents both sides ETOH
denies any family hx of suicide attempts
 
Physical Exam:
VS:  BP 137/84, P 78, RR 16, O2 Sat 99% RA, T 98.8 deg F.    
Gen: NAD, sitting comfortably.
HEENT: small 1-2 cm area of erythema/irritation superior to left
temple, states after one of his attempts over the past ___ weeks
may have been rolling around on floor and may have caused mild
head abrasion which he states is not bothering him now, PERRLA,
EOMI, MMM, no JVD
Ht: RRR, no MRG
Lungs: CTAB, symmetric chest wall motion, no increased work of
breathing
Abd: Soft, nontender, nondistended, normoactive bowel sounds, no
guarding
Ext: No leg tenderness, edema or erythema bilaterally, 2+
bilateral ___ pulses
Neuro-
Cranial Nerves-
   pupils symmetry and responsiveness to light and 
accommodation:
PERRLA
     EOM:  full
     facial sensation to light touch in all 3 divisions: equal
     facial symmetry on eye closure and smile:  symmetric
     hearing bilaterally to rubbing fingers: normal
     phonation: normal
     head turning and shoulder shrug:  intact
     tongue:   midline
Motor:
Moving all extremities, ___ proximal and distal bilateral arm 
and
leg strength
2+ biceps and patellar reflexes bilaterally

Sensation: Normal light touch sensation of proximal and distal
extremities bilaterally
Coordination:
     Finger-nose-finger: intact
Gait/Romberg: Normal
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: Patient is a college-aged man who appears stated
age, hygiene and grooming is good, found in hospital gown with
scrub pants, bald and with a well-groomed beard.  
  Behavior: Patient able to have calm and cooperative
conversation with examiner, of note remains very calm and 
without
distress when discussing multiple recent suicide attempts.  
  *Mood and Affect: "stable"; full range of affect, mood appears
very incongruent to described recent severe depression and
multiple suicide attempts by multiple methods including hanging
and overdose, not labile, appropriate.
  *Thought process: Linear, logical, goal-oriented.  No LOA.  
  *Thought Content: Denies SI, though had 3 suicide attempts 
over
the past ___ weeks.  Denies HI. Denies AH or VH.  Denies
paranoia.  
  *Judgment and Insight: Poor/limited.  
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview, MOYB x 12.  
    *Memory: ___ registration, ___ recall
    *Fund of knowledge: Knows the president, ___ wrote
"Midsummer Night's Dream".  
    Abstraction: "apple
s/oranges"- fruits, "don't judge a book by it's cover" means
"statement about prejudices toward people making assumptions
about their thoughts"
    Calculation: $1.75 has 7 quarters
    
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___
 
Pertinent Results:
___ 02:30PM   GLUCOSE-97 UREA N-10 CREAT-0.7 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-98 TOTAL CO2-25 ANION GAP-20
___ 02:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:30PM   WBC-8.2 RBC-5.53 HGB-16.0 HCT-47.3 MCV-86 
MCH-28.9 MCHC-33.8 RDW-12.5 RDWSD-38.3
___ 02:30PM   NEUTS-70.9 ___ MONOS-6.2 EOS-1.1 
BASOS-0.4 IM ___ AbsNeut-5.83 AbsLymp-1.71 AbsMono-0.51 
AbsEos-0.09 AbsBaso-0.03
___ 02:30PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on , but subsequently the patient signed a conditional 
voluntary agreement (Section 10 & 11) and remained on that level 
throughout her admission They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Unspecified depressive disorder
Patient was admitted out of concern for worsening depressive 
symptoms after revealing 3 suicide attempts in the ___ period 
prior to admission to his psychiatrist at ___ 
___ health services department. Patient reported having 
difficulty filling his fluoxetine and bupropion prescriptions 
prior to his SA's and identified this as a contributing factor.  
As per patient's report, these attempts include briefly 
attempting to hang himself, attempting overdose on codeine and 
alcohol, and attempting to overdose on a "month's supply" of 
fluoxetine and bupropion. He did not disclose to his family, 
romantic partner, or psychiatric provider his emerging suicidal 
ideation prior to these attempt and waited over a week to 
disclose these attempts to his outpatient psychiatrist (who was 
also the moonlighting psychiatrist on our inpatient unit, and 
saw the patient in person in the capacity on ___. The 
patient was admitted and started on lithium for mood lability 
and antisuicidal properties, and reported improvement on it in 
his mood stability and improving depression. He was also 
restarted on bupropion given success on it in the past as per 
the patient and his outpatient psychiatrist. The patient was 
also started on quetiapine, due to reports of poor sleep and 
reports of auditory hallucinations which began in the second 
week of his hospitalization and seemed incongruent with his 
mental status exam which was not significant for internal 
preoccupation, thought disorder, or psychotic or delusional 
thinking. 

The patient reported benefiting from his time on the unit and 
stated he had acquired coping skills from our group and 
individual therapy that would allow him to better cope with 
negative feelings, he also felt more comfortable seeking help 
and more comfortable in feeling he deserved help if he felt 
unsafe. He stated that he would share with his girlfriend, 
family, and outpatient providers if he felt unsafe going 
forward. He identified life stressors that might predispose him 
towards SI, such as difficulties in school, and elected to take 
a leave of absence upon discharge in order to focus on mental 
health and participate in PHP and outpatient treatment. Losing 
his student status and thus student housing an access to ___ 
psychiatry services was also a stressor, but he was able to 
arrange for moving in with his girlfriend upon discharge and was 
provided referral to PHP and new psychiatric / therapy follow 
up. He denies SI, HI, AVH a time of discharge, was future 
oriented, feeling positive about discharge and planning for 
outpatient follow up. 

3. SUBSTANCE USE DISORDERS:
#) EtOH use - patient noted EtOH use prior to admission 
including ingestion of EtOH together with codeine in one suicide 
attempt; he was counseled regarding EtOH abstinence while on the 
unit

4. MEDICAL
#) Tremor - patient noted to have a small bilateral tremor, 
possibly related to lithium; should be followed up by outpatient 
psychiatric provider

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
- Patient's outpatient psychiatrist, Dr. ___ was 
contacted by the team, the patient's clinical status prior to 
and during admission was discussed, as was his medication 
regimen and treatment. The patent's parents and romantic 
partner, ___, were also contacted by the team with the 
patient's permission; and they were informed regarding his high 
risk of suicide and attempt prior to admission, his current 
treatment, and his need for continued support and follow up. 

#) INTERVENTIONS
- Medications: as above 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: as below
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
coping skills group therapy

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon three 
suicide attempts prior to admission which the patient did not 
initially communicate about to family, partner, or outpatient 
providers.  Their static factors noted at that time include 
history of suicide attempts, history of abuse, chronic mental 
illness, history of ethanol use,male gender, Caucasian race, 
LGBTQ identity, 

MODIFIABLE RISK FACTORS
suicidal ideation with attempts (no Si at time of DC), 
unpredictable behavior (attending coping skills training and 
stated he would reach out to family, partner, or providers in 
future before making impulsive decisions), medication 
noncompliance prior to admission (had run out of bupropion and 
fluoxetine prescription and was off meds prior to admission), 
hopelessness, limited coping skills, and academic stress.

PROTECTIVE RISK FACTORS
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, life satisfaction, reality testing 
ability, improving coping skills, good problem-solving skills, 
positive therapeutic relationship with outpatient providers, 
lack of suicidal ideation at time of dc, no history of substance 
use disorder, and strong social supports.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 
2. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  Lithium Carbonate SR (Lithobid) 600 mg PO BID 
Lithobid SR 
RX *lithium carbonate [Lithobid] 300 mg 2 tablet(s) by mouth 
daily Disp #*28 Tablet Refills:*0 
2.  QUEtiapine Fumarate 300 mg PO QHS 
RX *quetiapine 300 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
3.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth Daily Disp #*14 
Capsule Refills:*0 
4.  BuPROPion XL (Once Daily) 150 mg PO DAILY 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth Daily Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder

 
Discharge Condition:
VS:  97.6    134/90    91    16   100%RA
A/B: Appears stated age, dressed casually, good hygiene and 
grooming, calm, cooperative on interviewer, good eye contact, no 
psychomotor agitation or retardation noted
S: normal rate, volume, prosody
M: 'good' 
A: euthymic, full range, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
You were hospitalized at ___ for depression with suicidal 
ideation.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in a partial 
hospitalization program, with psychiatry and therapy as 
outpatient follow up.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
Followup Instructions:
___